US09193721B2
Step A: 2-Chloro-N-methoxy-N-methylnicotinamide
2-Chloronicotinoyl chloride (36 g, 0.20 mol) was dissolved in tetrahydrofuran (290 mL) and separately N,O-dimethylhydroxylamine hydrochloride (48 g, 0.49 mol) was stirred in 290 mL saturated bicarbonate solution until the degassing subsided. Then the bicarbonate solution was added to the acid chloride solution and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was extracted with ethyl acetate (2×), dried over sodium sulfate, filtered and evaporated to give the desired product (34 g, 83%). LCMS for C8H10ClN2O2 (M+H)+: m/z=201.0. Found: 200.9.

reactant | 2-Chloronicotinoyl chloride | 0.20 mol, 36 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.49 mol, 48 g | Cl.CNOC
solvent | tetrahydrofuran | 290 mL | O1CCCC1 | C4H8O
solvent | bicarbonate | 290 mL | C([O-])(O)=O
product | 2-Chloro-N-methoxy-N-methylnicotinamide | 34 g, 83% | ClC1=C(C(=O)N(C)OC)C=CC=N1 | C8H9ClN2O2
